US08486953B2
N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl-amino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.052 g, 0.138 mmol) was added into a mixture of methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.050 g, 0.125 mmol) and Hünig's base (22 μL, 0.125 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. 3-Dimethylamino-1-propylamine (69 μL, 0.625 mmol) was added and the coolant removed. The reaction mixture was stirred at ambient temperature overnight. The product was recrystallised from DMSO to yield off-white solid (0.031 g, 51%).

reactant | HATU | 0.138 mmol, 0.052 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.125 mmol, 0.050 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC2CCOCC2 | C20H20FN3O4S
reactant | Hünig's base | 0.125 mmol, 22 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-Dimethylamino-1-propylamine | 0.625 mmol, 69 μL | CN(CCCN)C | C5H14N2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl-amino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.031 g, 51% | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCOCC2)S1)C)C | C24H30FN5O3S
